US06825191B2
Step 1: Synthesis of methyl 4-[(ethoxycarbonylmethylamino)methyl]-3-nitrobenzoate
2.5 g (9.6 mmol) of 3-nitro-4-bromomethylbenzoic acid was dissolved in 100 ml of dichloromethane. 0.78 ml (19.2 mmol) of methanol, 2.2 g (11.5 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)-3-carbodiimide hydrochloride and 30 mg of dimethylaminopyridine were added to the obtained solution, and they were stirred at room temperature for 3 hours. The reaction mixture was treated with dichloromethane as the extracting solvent by an ordinary method to obtain the crude product. The crude product was dissolved in 50 ml of THF. 2.0 g (14.6 mmol) of glycine ethyl ester hydrochloride and 1.8 g (21.9 mmol) of sodium hydrogencarbonate were added to the obtained solution, and they were stirred at 80° C. for 4 hours. The insoluble matter was removed by the filtration, and the solvent was evaporated. After the extraction with ethyl acetate followed by the treatment by an ordinary method, the crude title compound was obtained.

reactant | 3-nitro-4-bromomethylbenzoic acid | 9.6 mmol, 2.5 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1CBr | C8H6BrNO4
reactant | methanol | 19.2 mmol, 0.78 ml | CO | CH4O
reactant | dimethylaminopyridine | 30 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | glycine ethyl ester hydrochloride | 14.6 mmol, 2.0 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 21.9 mmol, 1.8 g | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 4-[(ethoxycarbonylmethylamino)methyl]-3-nitrobenzoate | C(C)OC(=O)CNCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C13H16N2O6
